US07652041B2
Step 3: Preparation of 2-(3-aminophenyl)propan-2-ol
To a solution of hydroxylamine hydrochloride (7.42 g, 107 mmol) and potassium hydroxide (5.41 g, 82.0 mmol) in ethanol (65 mL) and water (30 mL) was added 2-[3-(2,5-dimethyl-1H-pyrrol-1-yl)phenyl]propan-2-ol (0.840 g, 3.66 mmol). The heterogeneous mixture was heated at 120° C. overnight and then concentrated. The residue was purified by column chromatography to give the desired product (0.55 g, 65%). 1H NMR (400 MHz, CDCl3) δ: 7.11-7.15 (m, 1H), 6.85-6.87 (m, 1H), 6.84 (ddd, 1H), 6.58 (ddd, 1H), and 1.55 (s, 6H). LCMS: (FA) ES+ 152.0 (M+1).

reactant | hydroxylamine hydrochloride | 107 mmol, 7.42 g | Cl.NO
reactant | potassium hydroxide | 82.0 mmol, 5.41 g | [OH-].[K+]
reactant | 2-[3-(2,5-dimethyl-1H-pyrrol-1-yl)phenyl]propan-2-ol | 3.66 mmol, 0.840 g | CC=1N(C(=CC1)C)C=1C=C(C=CC1)C(C)(C)O | C15H19NO
solvent | ethanol | 65 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
product | 2-(3-aminophenyl)propan-2-ol | 0.55 g, 65% | NC=1C=C(C=CC1)C(C)(C)O | C9H13NO
